US04639328
A solution of 4.6 g of 3-p-cyanobenzylmercapto-2-formyl-5-(4-pentylcyclohexyl)-thiophene in 25 ml of ethanol is added dropwise, at room temperature and in the course of 5 minutes, to an alcoholate solution prepared from 1.9 g of sodium and 60 ml of ethanol, and the mixture is then boiled for 5 hours. The usual working-up procedure gives 2-p-cyanophenyl-5-(4-pentylcyclohexyl)-thieno[3,2-b]thiophene.

reactant | 3-p-cyanobenzylmercapto-2-formyl-5-(4-pentylcyclohexyl)-thiophene | 4.6 g | C(#N)C1=CC=C(CSC2=C(SC(=C2)C2CCC(CC2)CCCCC)C=O)C=C1 | C24H29NOS2
reactant | sodium | 1.9 g | [Na] | Na
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-p-cyanophenyl-5-(4-pentylcyclohexyl)-thieno[3,2-b]thiophene | C(#N)C1=CC=C(C=C1)C1=CC2=C(S1)C=C(S2)C2CCC(CC2)CCCCC | C24H27NS2
